US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[2-(2,2-dimethyl-propylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide was reacted with 2,2-dimethyl-propylamine to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.9, 26.3, 26.4, 27.8, 32.1, 35.9, 43.1, 53.2, 59.3, 61.2, 63.0, 102.6, 102.8, 103.1, 105.2, 112.3, 112.6, 131.7, 137.6, 138.8, 162.0, 164.4, 164.5, 169.2, 169.3; MS m/z 478.2 (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide | CC(C=O)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C20H24F2N4O3
reactant | 2,2-dimethyl-propylamine | CC(CN)(C)C | C5H13N
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[2-(2,2-dimethyl-propylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-amide | CC(CNCC(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(C)C | C25H37F2N5O2
